US04377695
8-(5-Nitro-2-oxo-benzoxazolin-3-yl)-caprylic acid methyl ester
The product is produced as described in example 1 from 6 g. of NaH (80% suspension in mineral oil), 36 g. of 5-nitrobenzoxazolin-2-one (produced in usual manner by reacting 2-amino-4-nitrophenol-hydrochloride with phosgene), 400 cc. of DMF, 47.4 g. of 8-bromo caprylic acid methyl ester and 6 g. of NaJ.

reactant | NaH | [H-].[Na+]
reactant | 5-nitrobenzoxazolin-2-one | [N+](=O)([O-])C=1C=CC2=C(NC(O2)=O)C1 | C7H4N2O4
reactant | 8-bromo caprylic acid methyl ester | COC(CCCCCCCBr)=O | C9H17BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 8-(5-Nitro-2-oxo-benzoxazolin-3-yl)-caprylic acid methyl ester | COC(CCCCCCCN1C(OC2=C1C=C(C=C2)[N+](=O)[O-])=O)=O | C16H20N2O6
